US07192954B2
Step C. tert-Butyl [3-(cyclopropylmethyl)-2-oxo-2,3,4,7-tetrahydro-1H-1,3-diazepin-1-yl]acetate
A stirred mixture of tert-butyl N-allyl-N-{[allyl(cyclopropylmethyl)-amino]carbonyl}glycinate (287 mg, 0.93 mmol) and bis(tricyclohexylphosphine)-benzylidene ruthenium (IV) dichloride (Grubbs' catalyst) (192 mg, 0.23 mmol) in anhydrous CH2Cl2 (90 mL) was heated to 40° C. for 2 h. An additional portion of bis(tricyclohexylphosphine)benzylidene ruthenium (IV) dichloride (80 mg, 0.097 mmol) was added and the reaction mixture was heated to 40° C. for a further 2 h. The resulting mixture was filtered and the filtrate was concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc—100:0 to 70:30 to provide the title compound. MS: m/z=225 (M−C4H7).

reactant | tert-butyl N-allyl-N-{[allyl(cyclopropylmethyl)-amino]carbonyl}glycinate | 0.93 mmol, 287 mg | C(C=C)N(CC(=O)OC(C)(C)C)C(=O)N(CC1CC1)CC=C | C17H28N2O3
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [3-(cyclopropylmethyl)-2-oxo-2,3,4,7-tetrahydro-1H-1,3-diazepin-1-yl]acetate | C1(CC1)CN1C(N(CC=CC1)CC(=O)OC(C)(C)C)=O | C15H24N2O3
